US05378729
Synthesis of 2-Acetamido-N-benzyl-2-phenoxyacetamide
Using 2-acetamido-N-benzyl-2-ethoxyacetamide (3.00 g, 12.0 mmol), BBr3 (1M in CH2Cl2, 15.0 mL, 15.0 mmol), and NaOPh (4.18 g, 30 mmol) gave a brown oily residue which was purified by flash column chromatography on SiO2 gel using first CHCl3 and then 2% MeOH/CHCl3 as the eluents to give the desired product. The compound was recrystallized from chloroform/hexane.

reactant | 2-acetamido-N-benzyl-2-ethoxyacetamide | 12.0 mmol, 3.00 g | C(C)(=O)NC(C(=O)NCC1=CC=CC=C1)OCC | C13H18N2O3
reactant | BBr3 | 15.0 mmol, 1M, 15.0 mL | B(Br)(Br)Br | BBr3
reactant | NaOPh | 30 mmol, 4.18 g | O([Na])C1=CC=CC=C1
product | 2-Acetamido-N-benzyl-2-phenoxyacetamide | C(C)(=O)NC(C(=O)NCC1=CC=CC=C1)OC1=CC=CC=C1 | C17H18N2O3
